US07205306B2
Part A: A solution of 1-ethylpropylamine (1.97 g, 22.6 mmol) in acetonitrile (50 mL) was treated with K2CO3 (9.3 g, 67.7 mmol) 2-bromopropionitrile (3.0 g, 22.6 mmol) and KI (4.13 g, 24.9 mmol). The mixture was heated at 55° C. for 20 h. The mixture was cooled to room temperature and was filtered through a pad of Celite. The filtrate was concentrated and the residue was purified by column chromatography on silica gel (2% MeOH in CH2Cl2) to afford 2-(1-ethylpropylamino)-propionitrile (1.04 g, 36% yield) as a yellow oil.

reactant | 1-ethylpropylamine | 22.6 mmol, 1.97 g | C(C)C(CC)N | C5H13N
reactant | K2CO3 | 67.7 mmol, 9.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(1-ethylpropylamino)-propionitrile | 1.04 g, 36% yield | C(C)C(CC)NC(C#N)C | C8H16N2
